US04916124
6-(3-piperidinopropyl)-6H-indolo(2,3-b)quinoxaline
6-(3-glutarimidopropyl)-6H-indolo(2,3-b)quinoxaline (3.72 g) is heated under reflux with lithium aluminumhydride (0.80 g) in tetrahydrofuran (40 ml) for 6 hours, and then water (2 ml) is dropped thereto carefully. After stirring for 1 hour solid material is separated away and the residue is concentrated. The residue is dissolved in dry ether and the base is precipitated as hydrochloride by addition of hydrogen chloride. Yield: 2.60 g (68%), mp. 262°-266° C.

reactant | 6-(3-glutarimidopropyl)-6H-indolo(2,3-b)quinoxaline | 3.72 g | C1(CCCC(N1CCCN1C=2C=CC=CC2C=2C1=NC1=CC=CC=C1N2)=O)=O | C22H20N4O2
reactant | lithium | [Li] | Li
reactant | water | 2 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 6-(3-piperidinopropyl)-6H-indolo(2,3-b)quinoxaline | N1(CCCCC1)CCCN1C=2C=CC=CC2C=2C1=NC1=CC=CC=C1N2 | C22H24N4
